US08877772B2
Preparation of 3-pyridin-3-ylmethylene-5-(3,4,5-trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one
To a solution of 5-(3,4,5-trimethoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (157 mg, 0.365 mmol) in toluene (2 mL) was added triethylamine (56 μl, 0.365 mmol), molecular sieves 4 Å (100 mg), and 3-pyridinecarboxaldehyde (38 μl, 0.401 mmol). The resulting mixture was stirred overnight at room temperature, after which it was filtered and partitioned between DCM and H2O. The organic layer was separated, dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with 40-70% EtOAc:Hexanes to yield the SEM-protected precursor as a mixture of cis and trans isomers (101 mg, 53%). 41 mg (0.079 mmol) of this material was dissolved in MeOH (1.5 ml), 6 N HCl (3 ml) was added, and the mixture was stirred for 3 hours at 45° C. The reaction was quenched with 1 N NaOH (15 ml), neutralized by the addition of saturated NaHCO3 and extracted with DCM. Silica gel chromatography eluting with 0-5% MeOH:DCM yielded the title compound (22 mg, 72%) as a cis/trans-mixture. 1H NMR (CDCl3, 300 MHz): δ 9.15 (d, J=4.8 Hz, 1H), 9.11 (bs, 1H), 9.02 (d, J=1.2 Hz, 1H), 8.98 (d, J=1.1, 1H), 8.69 (dd, J=0.9, 2.9 Hz, 1H), 8.66 (dd, J=0.9, 2.8 Hz, 1H), 8.39 (d, J=1.2 Hz, 1H), 8.37 (d, J=1.2 Hz, 1H), 7.95 (m, 1H), 7.93 (s, 1H), 7.87 (d, J=1.1 Hz, 1H), 7.44 (m, 1H), 6.75 (s, 2H), 6.59 (s, 2H), 3.97 (s, 6H), 3.91 (s, 3H), 3.90 (s, 6H), 3.86 (s, 3H).

reactant | 5-(3,4,5-trimethoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 0.365 mmol, 157 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C2C(=NC1)N(C(C2)=O)COCC[Si](C)(C)C | C22H30N2O5Si
reactant | triethylamine | 0.365 mmol, 56 μl | C(C)N(CC)CC | C6H15N
reactant | 3-pyridinecarboxaldehyde | 0.401 mmol, 38 μl | N1=CC(=CC=C1)C=O | C6H5NO
reactant | HCl | 6 N, 3 ml | Cl | ClH
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 1.5 ml | CO | CH4O
product | 3-pyridin-3-ylmethylene-5-(3,4,5-trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 22 mg, 72% | N1=CC(=CC=C1)C=C1C(NC2=NC=C(C=C21)C2=CC(=C(C(=C2)OC)OC)OC)=O | C22H19N3O4
